US06831175B2
[3-(tert-Butyl-dimethyl-silanyloxy)-2-hydroxy-propyl]-carbamic acid tert-butyl ester
To a solution of t-butyl N-(2,3-dihydroxypropyl)carbamate (9.0 g, 47 mmol) in CH2Cl2 (75 mL) was added t-butyldimethylsilyl chloride (7.80 g, 51.7 mmol), triethylamine (7.86 mL, 56.4 mmol) and DMAP (230 mg). The solution was stirred at rt overnight. After diluting with CH2Cl2 (50 mL), the solution was washed with water (2×100 mL), dried over MgSO4 and concentrated. The residual oil was distilled by Kugelrohr under vacuum to give the desired product (13.6 g, 95%). MS (DCI) m/z 306 (M+1)+.

reactant | t-butyl N-(2,3-dihydroxypropyl)carbamate | 47 mmol, 9.0 g | OC(CNC(OC(C)(C)C)=O)CO | C8H17NO4
reactant | t-butyldimethylsilyl chloride | 51.7 mmol, 7.80 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 56.4 mmol, 7.86 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 230 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | [3-(tert-Butyl-dimethyl-silanyloxy)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | 13.6 g, 95% | C(C)(C)(C)OC(NCC(CO[Si](C)(C)C(C)(C)C)O)=O | C14H31NO4Si
